US03937626
272.3 g of N-phenylurea are dissolved in 1.5 liters of tetrahydrofuran. The solution is heated to 50°C and slowly treated with 171 ml of oxalyl chloride, in the course of which the reaction temperature should not exceed 65°C. Stirring is continued for 1 hour at room temperature and then for 4 hours under reflux. The reaction mixture is evaporated and the residue is recrystallised from isopropanol to give 1-phenyl-2,4,5-trioxo-imidazolidine (m.p. 214°-216°C).

reactant | N-phenylurea | 272.3 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | oxalyl chloride | 171 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
product | 1-phenyl-2,4,5-trioxo-imidazolidine | C1(=CC=CC=C1)N1C(NC(C1=O)=O)=O | C9H6N2O3
